US09326973B2
To a solution of 2,6-dibromoanthracene (1.2 g, 3.57 mmol) in 1,4-dioxane (20 mL) was added 1-ethoxyvinyltri-n-butyltin (3.65 mL, 10.71 mmol) under N2. Then Pd(PPh3)2Cl2 (0.251 g, 0.357 mmol) was added. The reaction mixture was heated at 100° C. for 16 h then cooled to rt and diluted with DCM and 1.5 N HCl. The organic layer was separated and the aqueous layer was extracted with DCM. The combined organic layer was dried over Na2SO4 and concentrated. The crude was purified by Combiflash Isco (Silica gel, 12 g, Redisep, 0.5% MeOH in CHCl3) and the resulting product was washed with petroleum ether to yield 1,1′-(anthracene-2,6-diyl)diethanone (600 mg) as a yellow solid. 1H NMR (CDCl3, δ=7.26 ppm, 400 MHz): δ 8.67 (s, 2H), 8.61 (s, 2H), 8.44-8.04 (m, 4H), 2.78 (s, 6H).

reactant | 2,6-dibromoanthracene | 3.57 mmol, 1.2 g | BrC1=CC2=CC3=CC=C(C=C3C=C2C=C1)Br | C14H8Br2
reactant | 1-ethoxyvinyltri-n-butyltin | 10.71 mmol, 3.65 mL | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
reactant | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | HCl | 1.5 N | Cl | ClH
catalyst | Pd(PPh3)2Cl2 | 0.357 mmol, 0.251 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1,1′-(anthracene-2,6-diyl)diethanone | 600 mg | C1=C(C=CC2=CC3=CC(=CC=C3C=C12)C(C)=O)C(C)=O | C18H14O2
